US05045564
Triethylamine (0.55 ml, 3.95 mmol), followed by oxalyl chloride (0.34 ml, 3.95 mmol) was added dropwise to a solution of 3-(1-hydroxytridecyl)-5-trimethylsilylfuran (890 mg, 2.63 mmol) in anhydrous dichloromethane (10 ml) at 0°. After 40 minutes, the reaction was quenched with ice water. Extraction (dichloromethane) and evaporation of the dried (magnesium sulfate) extracts gave an oil, which was purified by flash chromatography on silica using 5% ethyl ether/hexane. Fractions with Rf of about 0.37 on evaporation gave 3-(1-chlorotridecyl)-2-trimethylsilylfuran as a pale yellow oil, solidified to a colorless solid on storage at -20°.

reactant | Triethylamine | 3.95 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 3.95 mmol, 0.34 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(1-hydroxytridecyl)-5-trimethylsilylfuran | 2.63 mmol, 890 mg | OC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C20H38O2Si
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(1-chlorotridecyl)-2-trimethylsilylfuran | ClC(CCCCCCCCCCCC)C1=C(OC=C1)[Si](C)(C)C | C20H37ClOSi
